US05889026
(RS)-tert-Butyl-dimethyl-(4-oxiranylmethyl-phenoxy)-silane (0.62 g, 2.34 mmol) was dissolved in MeOH (8 ml) and stirred overnight at room temperature in the presence of 4-benzyl-4-hydroxy-piperidine (0.9 g, 4.68 mmol). The reaction mixture was concentrated and the residue was chromatographed over silica gel (hexane-ethylacetate 1:1, then CH2Cl2 --MeOH 19:1) to provide (RS)-4-Benzyl-1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-2-hydroxy-propyl}-piperidin-4-ol (0.95 g, 90%) as a yellow oil, MS: m/e=456.5 (M+H+).

reactant | (RS)-tert-Butyl-dimethyl-(4-oxiranylmethyl-phenoxy)-silane | 2.34 mmol, 0.62 g | C(C)(C)(C)[Si](OC1=CC=C(C=C1)CC1OC1)(C)C | C15H24O2Si
reactant | 4-benzyl-4-hydroxy-piperidine | 4.68 mmol, 0.9 g | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
solvent | MeOH | 8 ml | CO | CH4O
product | (RS)-4-Benzyl-1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-2-hydroxy-propyl}-piperidin-4-ol | 0.95 g, 90% | C(C1=CC=CC=C1)C1(CCN(CC1)CC(CC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)O)O | C27H41NO3Si
